US07109218B2
4-Chloromethyl-2-(4-chlorophenyl)-1,3-thiazole
171.65 g (1.0 mol) of 4-chlorothiobenzamide are dissolved in 550 ml of isopropyl alcohol and 133.3 g (1.05 mol) of 1,3-dichloroacetone are added at a temperature of a maximum of 30° C. over a period of 3hours. The mixture is subsequently stirred at 40° C. for 5.5 hours and at 20° C. for 10 hours. In order to complete the reaction the mixture is then heated to 55° C. for 7.5 hours. The product is isolated by cooling to 10° C. and adding 950 ml of water. The pH value is adjusted to 4 to 5 using sodium hydroxide solution and the product is filtered off with suction.

reactant | 4-chlorothiobenzamide | 1.0 mol, 171.65 g | ClC1=CC=C(C(=S)N)C=C1 | C7H6ClNS
reactant | 1,3-dichloroacetone | 1.05 mol, 133.3 g | ClCC(=O)CCl | C3H4Cl2O
reactant | water | 950 ml | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | isopropyl alcohol | 550 ml | C(C)(C)O | C3H8O
product | 4-Chloromethyl-2-(4-chlorophenyl)-1,3-thiazole | ClCC=1N=C(SC1)C1=CC=C(C=C1)Cl | C10H7Cl2NS
